US06555584B1
N-[2-[3-(4-Methoxybenzyloxy)benzamido]benzenesulfonyl]hexanamide
In a stream of nitrogen and at 0° C., 0.15 ml (1.10 mmol) of hexanoyl chloride was added to an anhydrous tetrahydrofuran (10 ml) solution containing 400 mg (1.00 mmol) of 3-(4-methoxybenzyloxy)-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 6 and 237 mg (1.90 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 490 mg (yield: 98.8%) of the title compound.

reactant | hexanoyl chloride | 1.10 mmol, 0.15 ml | C(CCCCC)(=O)Cl | C6H11ClO
reactant | 3-(4-methoxybenzyloxy)-N-(2-sulfamoylphenyl)benzamide | 1.00 mmol, 400 mg | COC1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(N)(=O)=O)C=CC2)C=C1 | C21H20N2O5S
catalyst | 4-dimethylaminopyridine | 1.90 mmol, 237 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-[3-(4-Methoxybenzyloxy)benzamido]benzenesulfonyl]hexanamide | 490 mg, yield: 98.8% | COC1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(=O)(=O)NC(CCCCC)=O)C=CC2)C=C1 | C27H30N2O6S
